US04188341
14.0 g (0.25 mol) of acrolein is added dropwise at 25° to 30° C. to 23.3 g (0.15 mol) of N-(3-penten-2-yl)-morpholine. The mixture obtained is stirred for 15 hours at 25° C. and subsequently, for further 15 hours at 50° C. Then the mixture is transferred into an autoclave and after addition of 400 ml of a 40% by weight aqueous solution of methylamine and 10.0 g of palladium coal (5%), the whole is heated under a nitrogen pressure of 50 bar for 5 hours at 280° to 290° C. Subsequently the catalyst is separated off by filtration and washed with ether. The filtrate is several times extracted with ether, the combined extracts are dried over magnesium sulphate and the ether is distilled off. Then water is added to the residue and the whole is acidified by addition of hydrochloric acid. The acid solution obtained is extracted with ether and the extract is discarded. Now sodium bicarbonate is added to the acid solution until the mixture shows alkaline reaction and the whole is again extracted with ether. The extract is dried over sodium sulphate and the ether is distilled off. N-methyl-2,6-dimethylaniline is obtained by distillation of the residue at 0.1 Torr.

reactant | acrolein | 0.25 mol, 14.0 g | C(=O)C=C | C3H4O
reactant | N-(3-penten-2-yl)-morpholine | 0.15 mol, 23.3 g | CC(C=CC)N1CCOCC1 | C9H17NO
reactant | methylamine | CN | CH5N
catalyst | palladium | 10.0 g | [Pd] | Pd
product | N-methyl-2,6-dimethylaniline | CNC1=C(C=CC=C1C)C | C9H13N
